Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, nausea/vomiting
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo presenting with acute-onset suprapubic and right lower 
quadrant pain starting earlier today, with intermittent 
exacerbations associated with nausea/vomiting. When the pain 
persisted, as well as the nausea/vomiting,
she presented to the ED for evaluation. 

Denies dysuria, fevers, sick contacts. Had some associated low 
back pain, also with constipation (longstanding issue). Last 
bowel movement was yesterday. No unusual bleeding or discharge. 
On the ride to the ED, reports that the car's jolting caused an 
increase in pain. However, once she arrived to the ED the pain 
did improve spontaneously to a certain degree. She received 
morphine and
Zofran and is now feeling better. Reports some increase in pain 
with pressure from the ultrasound probe during imaging.
 
Past Medical History:
OB History: G1P0
- Elective abortion x 1
Gyn History: 
- Last menstrual period ___
- regular cycles
- denies history of abnormal Paps, sexually transmitted 
infection
Past Medical History: hypothyroidism, GERD
Past Surgical History: T&A, hernia repair as a child

 
Social History:
Denies tobacco/ethanol/illicit drugs. 
 
Physical Exam:
On admission:
Vitals - T:98.1  BP:120/71  HR:20  RR:99% r/a
General: No acute distress, resting comfortably
Heart: regular rate and rhythm
Lungs: clear to auscultation bilaterally
Back: no Costovertebral angle tenderness
Abdomen: soft, obese, non-distended, mild right lower quadrant 
and suprapubic tenderness to palpation, no rebound/guarding
Pelvic: on bimanual exam, no cervical motion tenderness, mild 
right adnexal tenderness to palpation, no rebound/guarding, 
reports most discomfort with the abdominal examining hand

On discharge:
Afebrile, vital signs stable
General: no acute distress
Heart: regular rate and rhythm
Lungs: clear to auscultation bilaterally
Abdomen: soft, non-distended, mild right lower quadrant 
tenderness to palpation, no rebound/guarding

 
Pertinent Results:
CT Abd/Pelvis - tip of appendix is top normal in size but 
without
peripheral stranding to suggest appendicitis. Remainder of
appendix is air filled and normal. Trace free fluid in the 
pelvis
and tracking along the right paracolic gutter but appears to be
distinct from the appendix and is likely physiologic. 2.3cm 
right
ovarian cyst, likely corpus luteum.  

Pelvic U/S - ovaries are normal bilaterally with likely corpus
luteum cyst on the right. Normal arterial and venous waveforms
were demonstrated. Trace free pelvic fluid.  
  

Labs:
___ 05:50PM BLOOD WBC-12.9* RBC-5.04 Hgb-12.0 Hct-37.8 
MCV-75* MCH-23.9* MCHC-31.9 RDW-15.3 Plt ___
___ 05:50PM BLOOD Neuts-86.6* Lymphs-10.0* Monos-2.8 
Eos-0.4 Baso-0.3
___ 05:50PM BLOOD Glucose-98 UreaN-9 Creat-0.6 Na-137 K-4.2 
Cl-101 HCO3-25 AnGap-15
 
Brief Hospital Course:
Ms. ___ was initially seen in the ED by the GYN consult 
resident. She was admitted to the GYN service for observation to 
rule out intermittent torsion given the severity of her pain 
prior to presentation and that the fact that she is young and 
nulliparous. She was kept NPO and given intravenous fluids. She 
was not given narcotic pain medication so that her pain could be 
adequately evaluated.  Her serial abdominal exams remained 
benign throughout stay. Imaging did not suggest acute ovarian 
torsion or appendicitis. 
It was determined that her earlier symptoms may have been due to 
transient ovarian torsion, or to other etiologies such as 
constipation.
Ms. ___ was discharged home in stable condition on hospital day 
2. She denied recurrence of the severe pain she had prior to 
presentation. She was given a regular diet prior to discharge 
which she tolerated well. She will follow up in ___ clinic in 
___ weeks. 
 
Medications on Admission:
Levoxyl, Prilosec

 
Discharge Medications:
1. ibuprofen 600 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed for pain.
Disp:*50 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ovarian cyst 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for observation of your abdominal pain.  You 
had a pelvic ultrasound that showed a 2cm right ovarian cyst. A 
CT scan showed that you did not have appendicitis. Since your 
abdominal exams have been stable, there is currently no concern 
for ovarian torsion.

 
Followup Instructions:
___